US09375474B2
5-(3-chloropropyl)pyrrolo[1,2-a]quinoxalin-4(5H)-one (100 mg; 0.38 mmol) was added to a 5 mL microwave vessel containing a magnetic stir bar. 4-(4-chlorophenyl)piperidine (82.8 mg; 0.42 mmol), potassium carbonate (78.77 mg; 0.57 mmol), and 2 mL of acetonitrile were added to the vessel. The vessel was sealed and heated to 140° C. for 1 hour, after which the solvent was evaporated and the reaction mixture was purified by flash chromatography to yield 5-(3-(4-(4-chlorophenyl)piperidin-1-yl)propyl)pyrrolo[1,2-a]quinoxalin-4(5H)-one (110 mg; 0.26 mmol; 70%) [M+1]+=420.

reactant | 5-(3-chloropropyl)pyrrolo[1,2-a]quinoxalin-4(5H)-one | 0.38 mmol, 100 mg | ClCCCN1C(C=2N(C3=CC=CC=C13)C=CC2)=O | C14H13ClN2O
reactant | 4-(4-chlorophenyl)piperidine | 0.42 mmol, 82.8 mg | ClC1=CC=C(C=C1)C1CCNCC1 | C11H14ClN
reactant | potassium carbonate | 0.57 mmol, 78.77 mg | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 5-(3-(4-(4-chlorophenyl)piperidin-1-yl)propyl)pyrrolo[1,2-a]quinoxalin-4(5H)-one | 0.26 mmol, 110 mg, 70% | ClC1=CC=C(C=C1)C1CCN(CC1)CCCN1C(C=2N(C3=CC=CC=C13)C=CC2)=O | C25H26ClN3O
